US08119636B2
1-(2-Benzoyl-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one.
1-[2-(Hydroxy-phenyl-methyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one was treated with Dess-Martin periodinane, following general procedures described in these Examples. MP=190-192, (M+H)+=308.

reactant | 1-[2-(Hydroxy-phenyl-methyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | OC(C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O)C2=CC=CC=C2 | C18H19N3O2
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
product | 1-(2-Benzoyl-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | C(C1=CC=CC=C1)(=O)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C18H17N3O2
